US06113527
(RS)-7-(4-Methyl-indan-2-yl)-1-phenyl-1,7-diaza-spiro[3.5]nonane hydrochloride (1:1)
A mixture of aluminiumtrichloride (3 mmol) and lithium aluminiumhydride (3 mmol) in diethylether (5 ml) was heated for 1 h. The solution was then added to a mixture of (RS)-7-(4-methyl-indan-2-yl)-1-phenyl-1,7-diaza-spiro[3.5]nonan-2-one(1 mmol) in THF (20 ml). Heating commenced for 4 h. Water (50 ml) and methylenchloride (100 ml) were added, the phases were separated and the organic phase was dried with Na2SO4 and concentrated to yield the desired product which was crystallized as its HCl-salt from ethanol/ethyl acetate. 80 mg (20%) (RS)-7-(4-methyl-indan-2-yl)-1-phenyl-1,7-diaza-spiro[3.5]nonane hydrochloride (1:1) as a colorless solid, >219° C. dec. and MS: m/e=333.3 (M+H+).

reactant | aluminiumtrichloride | 3 mmol | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | lithium aluminiumhydride | 3 mmol | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (RS)-7-(4-methyl-indan-2-yl)-1-phenyl-1,7-diaza-spiro[3.5]nonan-2-one | 1 mmol | CC1=C2CC(CC2=CC=C1)N1CCC2(CC(N2C2=CC=CC=C2)=O)CC1 | C23H26N2O
reactant | Water | 50 ml | O | H2O
solvent | diethylether | 5 ml | C(C)OCC | C4H10O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | methylenchloride | 100 ml | C(Cl)Cl | CH2Cl2
product | (RS)-7-(4-Methyl-indan-2-yl)-1-phenyl-1,7-diaza-spiro[3.5]nonane hydrochloride | Cl.CC1=C2CC(CC2=CC=C1)N1CCC2(CCN2C2=CC=CC=C2)CC1 | InChI=1S/C23H28N2.ClH/c1-18-6-5-7-19-16-21(17-22(18)19)24-13-10-23(11-14-24)12-15-25(23)20-8-3-2-4-9-20;/h2-9,21H,10-17H2,1H3;1H
